US05457104
c) Diethyl (2,3,4-trifluoro-6-trifluoromethylbenzoyl)malonate
0.47 g (0.019 mol) of magnesium filings are introduced into 1.0 ml of ethanol, the reaction is started up using a few drops of carbon tetrachloride, and a solution of 2.8 g (0.016 mol) of diethyl malonate in 2.0 ml of ethanol and 7.5 ml of toluene is subsequently added dropwise in such a manner that the internal temperature is between 50 and 60° C. Stirring is then continued for one hour at 60° C. A solution of 4.8 g (0.027 mol) of 2,3,4-trifluoro-6-trifluoromethylbenzoyl chloride in 2.0 ml of toluene is added dropwise at -10° to -5° C., and stirring is continued for one hour at 0° C. and subsequently while the mixture comes to room temperature. The batch is poured into 10 ml of ice-water, treated with 1.25 ml of concentrated sulphuric acid, and the mixture is extracted using toluene. The toluene phase is washed using saturated sodium chloride solution, and the solvent is removed in vacuo.

reactant | magnesium | 0.019 mol, 0.47 g | [Mg] | Mg
reactant | diethyl malonate | 0.016 mol, 2.8 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2,3,4-trifluoro-6-trifluoromethylbenzoyl chloride | 0.027 mol, 4.8 g | FC1=C(C(=O)Cl)C(=CC(=C1F)F)C(F)(F)F | C8HClF6O
reactant | sulphuric acid | 1.25 ml | S(O)(O)(=O)=O | H2O4S
catalyst | carbon tetrachloride | a few drops | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethanol | 2.0 ml | C(C)O | C2H6O
solvent | toluene | 7.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1.0 ml | C(C)O | C2H6O
product | Diethyl (2,3,4-trifluoro-6-trifluoromethylbenzoyl)malonate | FC1=C(C(=O)C(C(=O)OCC)C(=O)OCC)C(=CC(=C1F)F)C(F)(F)F | C15H12F6O5
